US08809525B2
6-(2,6-Dimethylmorpholin-4-yl)-5-(4-fluorophenyl)-1,2,4-triazin-3-amine (110 mg, 20%) was prepared from 6-bromo-5-(4-fluorophenyl)-1,2,4-triazin-3-amine (0.50 g, 1.87 mmol) and 2,6-dimethylmorpholine (1.06 g, 9.36 mmol) according to the general procedure of Example 2.

reactant | 6-bromo-5-(4-fluorophenyl)-1,2,4-triazin-3-amine | 1.87 mmol, 0.50 g | BrC1=C(N=C(N=N1)N)C1=CC=C(C=C1)F | C9H6BrFN4
reactant | 2,6-dimethylmorpholine | 9.36 mmol, 1.06 g | CC1CNCC(O1)C | C6H13NO
product | 6-(2,6-Dimethylmorpholin-4-yl)-5-(4-fluorophenyl)-1,2,4-triazin-3-amine | 110 mg, 20% | CC1CN(CC(O1)C)C1=C(N=C(N=N1)N)C1=CC=C(C=C1)F | C15H18FN5O
